US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and acryloyl chloride, there is obtained ethyl N-(acryloyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 320 (11), 291 (19), 194 (100), 55 (15);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | ethyl N-(acryloyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C=C)(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C20H20N2O2
